US07618979B2
Step 4 methyl 1-chloro-8-oxo-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizine-7-carboxylate
To a suspension of methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (12.5 g, 59 mmol) in THF (116 mL)-toluene (460 mL) were added a 1.0 M TBF solution of potassium tert-butoxide (64 mL, 64 mmol) and methyl acrylate (55 mL, 611 mmol). The resulting mixture was heated at 100° C. for 18 h. After this time, the suspension was cooled to room temperature and it was poured into a mixture of saturated aqueous NH4Cl (400 mL) and hexanes (400 mL). The solids were decanted, filtered and washed with H2O and hexanes to provide the title compound.

reactant | methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 59 mmol, 12.5 g | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
reactant | potassium tert-butoxide | 64 mmol, 64 mL | CC(C)([O-])C.[K+]
reactant | methyl acrylate | 611 mmol, 55 mL | C(C=C)(=O)OC | C4H6O2
reactant | NH4Cl | 400 mL | [NH4+].[Cl-]
solvent | THF | 116 mL | C1CCOC1 | C4H8O
solvent | toluene | 460 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 1-chloro-8-oxo-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizine-7-carboxylate | ClC1=NC=CC2=C1C=C1C(C(CN21)C(=O)OC)=O | C12H9ClN2O3
